US05075434
3-Chloro-17β-[N-(3-trifluoromethylphenylmethyl)-amino]estra-1,3,5(10)-triene
The compound, 3-chloroestra-1,3,5(10)-trien-17-one (2.17 g) is added to a solution of 3-(trifluoromethyl)benzylamine (2.6 g) in methanol (200 ml) and tetrahydrofuran (200 ml) made acidic with acetic acid (1.5 ml). When the starting material is dissolved, sodium cyanoborohydride (0.72 g) is added, the mixture is stirred 24 hours, additional sodium cyanoborohydride (0.7 g) is and the mixture is stirred for another 21 hours. The mixture is diluted with water (200 ml), made basic with 50% sodium hydroxide and extracted with methylene chloride (3×100 ml). The combined extracts are washed with brine, dried over magnesium sulfate and the solvent is removed. The product is chromatographed on silica gel and recrystallized in methylene chloride/hexane to give the title compound (2.26 g).

reactant | 3-chloroestra-1,3,5(10)-trien-17-one | 2.17 g | ClC1=CC=2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C=C1)=O | C18H21ClO
reactant | 3-(trifluoromethyl)benzylamine | 2.6 g | FC(C=1C=C(CN)C=CC1)(F)F | C8H8F3N
reactant | sodium cyanoborohydride | 0.72 g | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 0.7 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
product | 3-Chloro-17β-[N-(3-trifluoromethylphenylmethyl)-amino]estra-1,3,5(10)-triene | 2.26 g | ClC1=CC=2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C2C=C1)NCC1=CC(=CC=C1)C(F)(F)F | C26H29ClF3N
